US07652021B2
(iii) tert-Butyl[3-(pyrimidin-2-ylamino)-1-adamantyl]carbamate
The mixture of 1.04 g (3 mmole) of 3-[(tert-butoxycarbonyl)amino]-1-adamantyl methanesulphonate and 1.0 g (10.5 mmole) 2-aminopyrimidine are melted at 140° C. After 15 minutes of stirring the melt is cooled down and purified by column chromatography (n-hexane—ethyl acetate—chloroform 2:1: 1). The product is white crystalline material, 0.7 g (68%). Mp.: 163-165° C. 1H-NMR (DMSO-d6): 1.36 (s, 9H), 1.52 (s, 2H), 1.71 (d, 2H), 1.86 (d, 4H), 2.07 (m, 4H), 2.25 (m, 2H), 6.38 (s, 1H), 6.49 (t, 3H), 6.58 (s, 1H), 8.22 (d, 2H).

reactant | 3-[(tert-butoxycarbonyl)amino]-1-adamantyl methanesulphonate | 3 mmole, 1.04 g | CS(=O)(=O)OC12CC3(CC(CC(C1)C3)C2)NC(=O)OC(C)(C)C | C16H27NO5S
reactant | 2-aminopyrimidine | 10.5 mmole, 1.0 g | NC1=NC=CC=N1 | C4H5N3
product | tert-Butyl[3-(pyrimidin-2-ylamino)-1-adamantyl]carbamate | C(C)(C)(C)OC(NC12CC3(CC(CC(C1)C3)C2)NC2=NC=CC=N2)=O | C19H28N4O2
